US06867320B2
Synthesis of (3-bromophenyl)thiourea (Intermediate 62)
A solution of 3-bromoaniline (10.89 ml, TCI) in 20% aqueous hydrochloric acid (18.2 ml) was added with ammonium thiocyanate (8.02 g, WAKO) and sodium hydrogensulfite (701 mg, WAKO) and stirred at 100° C. for 22 hours. The reaction mixture was added with chloroform (20 ml) for extraction. The organic layer was dried, and then the solvent was evaporated under reduced pressure. The residue was purified by column chromatography (Quad, hexane:ethyl acetate=2:1) to obtain the title compound (Intermediate 62, 4.45 g).

reactant | 3-bromoaniline | 10.89 ml | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | ammonium thiocyanate | 8.02 g | [S-]C#N.[NH4+]
reactant | sodium hydrogensulfite | 701 mg | S(=O)(O)[O-].[Na+]
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | hydrochloric acid | 18.2 ml | Cl | ClH
product | (3-bromophenyl)thiourea | 4.45 g | BrC=1C=C(C=CC1)NC(=S)N | C7H7BrN2S
